US09108957B2
To a solution of 3-amino-butyric acid ethyl ester (5.00 g, 34.3 mmol), benzaldehyde (4.1 mL, 40 mmol) and acetic acid (1.9 mL, 34 mmol) in 1,2-dichloroethane (120 mL) was added sodium triacetoxyborohydride (17 g, 80 mmol) at room temperature and the mixture was stirred for 20 hours. The reaction mixture was poured into sodium bicarbonate saturated aqueous solution and extracted with chloroform. The organic phase was dried over anhydrous sodium sulfate and concentrated. The resulting residue was purified by flash column chromatography on silica gel (chloroform/methanol=10/1 as an eluant) to afford 3-benzylamino-butyric acid ethyl ester (2.1 g, 9.5 mmol, 28%) as colorless oil.

reactant | 3-amino-butyric acid ethyl ester | 34.3 mmol, 5.00 g | C(C)OC(CC(C)N)=O | C6H13NO2
reactant | benzaldehyde | 40 mmol, 4.1 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid | 34 mmol, 1.9 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 80 mmol, 17 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 120 mL | ClCCCl | C2H4Cl2
product | 3-benzylamino-butyric acid ethyl ester | 9.5 mmol, 2.1 g, 28% | C(C)OC(CC(C)NCC1=CC=CC=C1)=O | C13H19NO2
